US08003785B2
To a mixture of 0.105 g (0.23 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-22), 0.0988 g (0.26 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 1 mL of dichloromethane, 0.2 mL of triethylamine was added followed by 0.0199 g (0.13 mmole) of 4-(3-amino-propyl)-piperazine-1-carboxylic acid tert-butyl ester. After stirring 1.5 hours, the mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with acetonitrile-water (gradient, 5:95-0:100) to give 0.0609 g of 4-{3-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester (I-94).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.23 mmole, 0.105 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.26 mmole, 0.0988 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
reactant | 4-(3-amino-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.13 mmole, 0.0199 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | 4-{3-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.0609 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCNC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)OC)=O | C33H46F2N8O5
